US07786129B2
3-{4-[4-(4-Chloro-3-trifluoromethyl-phenyl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 starting from 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(4-chloro-3-tri-fluormethyl-phenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=CC=C12)=O)CC | C14H18ClNO
reactant | 1-(4-chloro-3-tri-fluormethyl-phenyl)-piperazine | ClC1=C(C=C(C=C1)N1CCNCC1)C(F)(F)F | C11H12ClF3N2
product | 3-{4-[4-(4-Chloro-3-trifluoromethyl-phenyl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC1=C(C=C(C=C1)N1CCN(CC1)CCCCC1(C(NC2=CC=CC=C12)=O)CC)C(F)(F)F | InChI=1S/C25H29ClF3N3O.ClH/c1-2-24(19-7-3-4-8-22(19)30-23(24)33)11-5-6-12-31-13-15-32(16-14-31)18-9-10-21(26)20(17-18)25(27,28)29;/h3-4,7-10,17H,2,5-6,11-16H2,1H3,(H,30,33);1H
